US07964732B2
Step A11D: (R,E)-2-methyl-N-((1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)methylene) propane-2-sulfinamide
1-Methyl-5-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde (1.0 g, 0.0056 mole) was dissolved in THF (20 ml) and Ti(OEt)4 (2.56 g, 0.011 mole) in THF (5 ml) added and the solution stirred under nitrogen. (R)-(+)-2-methyl-2-propanesulfinamide (680 mg, 0.0056 mole) was added in a single portion and the reaction stirred under reflux and nitrogen for 6 hours. The solution was cooled to 0-5° C. and added to a cooled mix of brine and ethyl acetate (1:1, 120 ml) with rapid stirring. The mixture was filtered through Celite and the solids washed with more ethyl acetate. The organic layer was separated and back-washed with brine (2×60 ml). The organic layer was separated, dried (Na2SO4), filtered and evaporated to give a cloudy oil. Yield 1.7 g. The oil was dissolved in dichloromethane and purified using an ISCO Companion (40 g silica col., hexane to hexane:ethyl acetate 1:1). The appropriate fractions were combined and evaporated to give an oil, which solidified on standing. Yield 1.43 g, 90%. 1H NMR (400 MHz, CDCl3) δ 8.63 (s, 1H) 8.02 (s, 1H) 4.07 (s, 3H) 1.25 (s, 9H). MS (ESI) m/z 282 (M+H)+. LC-MS ESLD 100% m/z 282 (M+H)+. TLC ethyl acetate:heptane 1:1 0.8 UV +ve. GC-MS Cl+ m/z 282 (M+H)+.

reactant | 1-Methyl-5-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde | 0.0056 mole, 1.0 g | CN1N=CC(=C1C(F)(F)F)C=O | C6H5F3N2O
reactant | (R)-(+)-2-methyl-2-propanesulfinamide | 0.0056 mole, 680 mg | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R,E)-2-methyl-N-((1-methyl-5-(trifluoromethyl)-1H-pyrazol-4-yl)methylene) propane-2-sulfinamide | CC(C)(C)[S@@](=O)/N=C/C=1C=NN(C1C(F)(F)F)C | C10H14F3N3OS
